US05470834
To a stirred mixture of 14.0 g of isobutylmalonic acid and 37 mL of 37% formalin was added 9.05 mL of diethylamine at room temperature. The mixture was stirred at room temperature for 3 h and refluxed for an additional 2 h. The reaction mixture was cooled to room temperature and diluted with CHCl3, and extracted with saturated aqueous NaHCO3. The aqueous layer was acidified with 1M HCl and extracted with CHCl3. The organic extract was dried over anhydrous Na2SO4 and evaporated under reduced pressure to afford 11.0 g at 98% yield of 4-methyl-2-methylenepentanoic acid as a clear liquid which was used without further purification. Characteristic analytical data are as follows: 1H NMR (300 MHz, CDCl3) δ6.32 (d, J=2 Hz, 1H), 5.62 (d, J=2 Hz, 1H), 2.17 (dd, J=1, 7 Hz, 2H), 1.82 (m, 1H), 0.90 (d, J=7 Hz, 6H); 13C NMR (300 MHz) δ173.6, 139.4, 128.4, 40.7, 26.9, 22.0.

reactant | isobutylmalonic acid | 14.0 g | C(C(C)C)C(C(=O)O)C(=O)O | C7H12O4
reactant | formalin | 37 mL | C=O | CH2O
reactant | diethylamine | 9.05 mL | C(C)NCC | C4H11N
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-methyl-2-methylenepentanoic acid | 98% yield | CC(CC(C(=O)O)=C)C | C7H12O2
